US06897231B2
A. N-[3-(4-Fluorophenyl)(1H-indazol-5-yl)][(4-fluorophenyl)amino]carboxamide
To a solution of 3-(4-fluorophenyl)-1-(2-methoxyethoxy)-1H-indazole-5-ylamine (115 mg, 0.36 mmol) in dioxane (5 mL) was added 4-fluorophenyl isocyanate (50 μL, 0.44 mmol). The reaction was stirred overnight at room temperature. It was then filtered and the solid dried in a vaxuum oven. The solid was then taken up in 6N HCl (10 mL) and methanol (10 mL) and heated to 80° C. for 2 hours. The reaction was then cooled to room temperature and quenched with NaHCO3 (100 mL) and extracted with ethyl acetate (3×40 mL). The organic layers were combined and dried with magnesium sulfate (MgSO4) and concentrated to a solid to afford the title compound (25 mg, 19% yield). 1H NMR (CDCl3) δ 13.1 (br s, 1H), 9.32 (s, 2H), 8.28 (s, 1H), 7.94 (dd, 2H), 7.52 (d, 1H), 7.48 (dd, 2H), 7.38 (t, 2H), 7.33 (dd, 1H), 7.11 (t, 2H); ES-MS (m/z) 364 [M+1]+.

reactant | 3-(4-fluorophenyl)-1-(2-methoxyethoxy)-1H-indazole-5-ylamine | 0.36 mmol, 115 mg | FC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)N)OCCOC | C16H16FN3O2
reactant | 4-fluorophenyl isocyanate | 0.44 mmol, 50 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-[3-(4-Fluorophenyl)(1H-indazol-5-yl)][(4-fluorophenyl)amino]carboxamide | 25 mg, 19% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NC(=O)NC1=CC=C(C=C1)F | C20H14F2N4O
